US07989449B2
1,3-Dibromo-5-ethoxymethyl-benzene
A solution of 3,5-dibromobenzyl alcohol (2.0 h, 8 mmol) in tetrahydrofuran (80 mL) was cooled to 5° C. and treated with sodium hydride (dispersion in oil 55%; 316 mg, 8 mmol). The mixture was left to warm to room temperature and stirred for 15 min. Ethyliodide (2.35 g, 15 mmol) was added and the mixture stirred for 5 h. For the working-up, the reaction mixture was evaporated, then extracted with a mixture of ethyl acetate and saturated sodium hydrogencarbonate solution. After the aqueous layer was re-extracted twice with ethyl acetate, the organic layers were combined, dried over sodium sulfate, and evaporated under reduced pressure. There were obtained 1.15 g of the title compound (yield: 52%) as a yellow oil in sufficient purity to be engaged in the next step without further purification.

reactant | 3,5-dibromobenzyl alcohol | 8 mmol | BrC=1C=C(CO)C=C(C1)Br | C7H6Br2O
reactant | sodium hydride | 8 mmol, 316 mg | [H-].[Na+]
reactant | Ethyliodide | 15 mmol, 2.35 g | C(C)I | C2H5I
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 1,3-Dibromo-5-ethoxymethyl-benzene | 1.15 g, yield: 52% | BrC1=CC(=CC(=C1)COCC)Br | C9H10Br2O
